2128-01-19 12:35:00 Physician Attending Progress Note
Chief Complaint:  DKA, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2128-1-18**] 10:00 AM
 STOOL CULTURE - At [**2128-1-18**] 04:45 PM
   ? c-diff
 PAN CULTURE - At [**2128-1-19**] 12:19 AM
 FEVER - 101.4
F - [**2128-1-19**] 12:00 AM
   Some melanotic stools
 [**Hospital1 **] PPI
   Transfused 1 U PRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2128-1-17**] 04:30 PM
   Vancomycin - [**2128-1-18**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-19**] 08:00 AM
   Infusions:
   Insulin - Regular - 2.5 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2128-1-18**] 02:56 PM
   Heparin Sodium (Prophylaxis) - [**2128-1-19**] 12:19 AM
   Pantoprazole (Protonix) - [**2128-1-19**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-19**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.3
C (99.2
   HR: 99 (94 - 113) bpm
   BP: 173/81(116) {145/73(101) - 173/87(116)} mmHg
   RR: 25 (22 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 16 (11 - 16)mmHg
   Total In:
                                                                  5,334 mL
                                                                  1,362 mL
   PO:
   TF:
                                                                    738 mL
                                                                    501 mL
   IVF:
                                                                  3,846 mL
                                                                    501 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,918 mL
                                                                  2,200 mL
   Urine:
                                                                  1,918 mL
                                                                  2,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,416 mL
                                                                   -838 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 592 (542 - 597) mL
   PS : 15 cmH2O
   RR (Set): 32
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 98%
   ABG: 7.32/29/128/15/-9
   Ve: 17.9 L/min
   PaO2 / FiO2: 256
   Physical Examination
   GEN:intubated, sedated, opens eye to voice
   HEENT:NCAT PER
   JVP:not appreciated
   CV: RRR S1S2
   PULM: coarse breath sounds bilaterally with good air movement, no
   wheezes, rales,
   ABD: firm, NT, +BS
   EXT: 1+pitting edema on upper and lower extremities (mainly hands,
   feet)
   NEURO: sedated, min response to voice or tactile stimulus
   Labs / Radiology
   9.2 g/dL
   125 K/uL
   86 mg/dL
   4.5 mg/dL
   15 mEq/L
   3.7 mEq/L
   44 mg/dL
   121 mEq/L
   148 mEq/L
   26.1 %
   24.8 K/uL
        [image002.jpg]
                            [**2128-1-18**]  12:28 PM
                            [**2128-1-18**]  07:00 PM
                            [**2128-1-18**]  07:11 PM
                            [**2128-1-18**]  09:29 PM
                            [**2128-1-18**]  09:42 PM
                            [**2128-1-18**]  11:08 PM
                            [**2128-1-19**]  03:33 AM
                            [**2128-1-19**]  03:39 AM
                            [**2128-1-19**]  06:26 AM
                            [**2128-1-19**]  06:46 AM
   WBC
   24.8
   Hct
   25.7
   26.1
   26.1
   Plt
   125
   Cr
   4.2
   4.4
   4.5
   TCO2
   14
   15
   15
   16
   16
   Glucose
   108
   98
   86
   Other labs: PT / PTT / INR:14.4/33.2/1.3, CK / CKMB /
   Troponin-T:1017/10/0.35, ALT / AST:43/102, Alk Phos / T Bili:164/0.7,
   Differential-Neuts:83.1 %, Lymph:15.6 %, Mono:1.0 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:760 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTHERMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPERGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
   1.       Resp Failure: intubated for management of acidosis and ability
   to protect his airway
 however has has been diuresed and is now on PSV
   15/10- check SBT and reassess, may be able to get to [**10-26**]
 but clearly
   he is total body volume overloaded and still has a renal acidosis so
   may be limiting
   2.       DKA: Appreciate [**Last Name (un) 276**] input, continue IV insulin, and
   evaluation for precipitant.
   3.       Persistent fevers: will obtain CT scan (oral not IV contrast)
   abdomen given tenderness leukocytosis and diarrhea. Follow up cultures
   and maintain antibiotics.
   4.       Renal function slowly worsening, appreciate renal
   consultation. We did try Lasix for goal neg fluid balance. Still
   diruesing well, will follow and rechallenge with diuretics prn.
   5.       HTN: now that he is volume up- we see his baseline HTN
   emerging but will allow to run relatively high in light of renal
   perfusion.
   6.       Wound care for bilateral decubitis
   Remainder of plan as outlined by housestaff
   Patient is critically ill
   Total time: 40 min
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2128-1-19**] 06:32 AM 40 mL/hour
   Glycemic Control:  insulin drip
   Lines:
   Multi Lumen - [**2128-1-17**] 02:00 AM
   18 Gauge - [**2128-1-17**] 02:00 AM
   Arterial Line - [**2128-1-17**] 08:11 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   VAP: chlor hex
   Communication:  with husband
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2128-01-20 11:31:00 Physician Attending Progress Note
Chief Complaint: DKA, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Abd CT yesterday for leukocytosis, fevers, copius diarrhea. Read shows
   some bowel wall thickening in small bowel. Surgical consult called.
   Felt no acute indication for OR.
   WBC doubled to 36
   C diff neg x 1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2128-1-17**] 04:30 PM
   Vancomycin - [**2128-1-18**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-20**] 08:00 AM
   Infusions:
   Insulin - Regular - 1.5 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2128-1-20**] 04:30 AM
   Heparin Sodium (Prophylaxis) - [**2128-1-20**] 09:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-20**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.9
   HR: 107 (82 - 125) bpm
   BP: 147/72(101) {106/55(74) - 211/126(159)} mmHg
   RR: 27 (18 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
   CVP: 16 (16 - 16)mmHg
   Total In:
                                                                  5,331 mL
                                                                  1,912 mL
   PO:
   TF:
                                                                    824 mL
                                                                    508 mL
   IVF:
                                                                  1,937 mL
                                                                    904 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                    910 mL
   Urine:
                                                                  3,390 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,941 mL
                                                                  1,002 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 624 (454 - 624) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.27/34/99.[**Numeric Identifier 253**]/18/-10
   Ve: 14.1 L/min
   PaO2 / FiO2: 200
   Physical Examination
    GEN:intubated, sedated, opens eye to voice
   HEENT:NCAT PER
   JVP:not appreciated
   CV: RRR S1S2
   PULM: coarse breath sounds bilaterally with good air movement, no
   wheezes, rales,
   ABD: firm, NT, +BS
   EXT: 1+pitting edema on upper and lower extremities (mainly hands,
   feet)
   NEURO: sedated, min response to voice or tactile stimulus
   Labs / Radiology
   9.5 g/dL
   86 K/uL
   84 mg/dL
   4.8 mg/dL
   18 mEq/L
   3.9 mEq/L
   55 mg/dL
   118 mEq/L
   147 mEq/L
   27.6 %
   30.6 K/uL
        [image002.jpg]
                            [**2128-1-19**]  06:55 PM
                            [**2128-1-19**]  08:48 PM
                            [**2128-1-19**]  09:17 PM
                            [**2128-1-19**]  09:23 PM
                            [**2128-1-19**]  10:06 PM
                            [**2128-1-20**]  01:22 AM
                            [**2128-1-20**]  02:20 AM
                            [**2128-1-20**]  02:43 AM
                            [**2128-1-20**]  05:13 AM
                            [**2128-1-20**]  09:27 AM
   WBC
   36.1
   30.6
   Hct
   29.2
   27.6
   Plt
   118
   86
   Cr
   4.9
   4.8
   TCO2
   12
   17
   17
   16
   17
   19
   18
   16
   Glucose
   165
   84
   Other labs: PT / PTT / INR:12.7/37.0/1.1, CK / CKMB /
   Troponin-T:1017/10/0.35, ALT / AST:36/58, Alk Phos / T Bili:172/0.4,
   Differential-Neuts:96.2 %, Lymph:3.2 %, Mono:0.3 %, Eos:0.3 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:603 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTHERMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPERGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
   1.       Resp Failure: intubated for management of acidosis and
   inability to protect his airway. Tried PSV yesterday but when went for
   ABD CT had resp distress and inability to maintain MV to defend his pH
   from met acidosis so back on AC. Rxing with full vent support for
   volume overload, MRSA PNA, and volume overload.
   2.       Metabolic Acidosis: The etiology of which is ARF and
   hyperchloremic met acidosis. We are repleting free water and trying
   diuresis.
   3.       DKA: Appreciate [**Last Name (un) 276**] input, continue IV insulin, and
   evaluation for precipitant ongoing.
   4.       Persistent fevers: clearly has MRSA PNA for which he is on Rx.
   Abd ct shows some bowel wall abnormalities but he is without need for
   surgical intervention.  Follow up cultures and maintain antibiotics.
   5.       Renal function slowly worsening, appreciate renal
   consultation. No acute indication for HD since still urinating but we
   need to use lasix to match I and OI at the least
   6.       Thrombocytopenia: down to 86 this AM DDx is HIT, check AB d/c
   sq hep,, Med effect with Vanco, also Zosyn, and finally TTP
 HUS with
   his renal failure and anemia. Will check peripheral smear, low
   threshold for Heme consultation.
   7.       Leukocytosis: DDx is line infection, C diff. Start Flagyl.
   Repeat C diff.
   8.       Sedation: switch to Versed and fentanyl for better pain
   control
   9.       Wound care for bilateral decubiti
   Remaining issues as per Housetaff notes.
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2128-1-19**] 06:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-1-17**] 02:00 AM
   18 Gauge - [**2128-1-17**] 02:00 AM
   Arterial Line - [**2128-1-17**] 08:11 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with father
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2128-01-21 09:27:00 Physician Attending Progress Note
Chief Complaint: resp failure DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2128-1-20**] 09:49 PM
 URINE CULTURE - At [**2128-1-20**] 09:50 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2128-1-21**] 05:01 AM
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-21**] 07:30 AM
   Infusions:
   Fentanyl - 90 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Insulin - Regular - 1.5 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-1-20**] 09:55 AM
   Furosemide (Lasix) - [**2128-1-20**] 12:30 PM
   Dextrose 50% - [**2128-1-20**] 04:00 PM
   Midazolam (Versed) - [**2128-1-20**] 08:31 PM
   Fentanyl - [**2128-1-20**] 08:31 PM
   Pantoprazole (Protonix) - [**2128-1-21**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2128-1-21**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37
C (98.6
   HR: 89 (89 - 113) bpm
   BP: 145/69(97) {133/65(92) - 176/88(122)} mmHg
   RR: 21 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,228 mL
                                                                  1,055 mL
   PO:
                                                                     60 mL
             TF:
                                                                  1,009 mL
                                                                    375 mL
   IVF:
                                                                  1,634 mL
                                                                    480 mL
   Blood products:
   Total out:
                                                                  3,600 mL
                                                                  1,170 mL
   Urine:
                                                                  3,600 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -372 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 550 (550 - 550) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 61
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/31/166/15/-6
   Ve: 11.4 L/min
   PaO2 / FiO2: 332
   Physical Examination
   GEN:intubated, sedated, opens eye to voice
   HEENT:NCAT PER
   JVP:not appreciated
   CV: RRR S1S2
   PULM: coarse breath sounds bilaterally with good air movement, no
   wheezes, rales,
   ABD: firm, NT, +BS
   EXT: 1+pitting edema on upper and lower extremities (mainly hands,
   feet)
   NEURO: sedated, min response to voice or tactile stimulus
   Labs / Radiology
   9.4 g/dL
   93 K/uL
   125 mg/dL
   4.5 mg/dL
   15 mEq/L
   3.0 mEq/L
   63 mg/dL
   123 mEq/L
   148 mEq/L
   27.5 %
   18.7 K/uL
        [image002.jpg]
                            [**2128-1-20**]  02:20 AM
                            [**2128-1-20**]  02:43 AM
                            [**2128-1-20**]  05:13 AM
                            [**2128-1-20**]  09:27 AM
                            [**2128-1-20**]  01:13 PM
                            [**2128-1-20**]  03:27 PM
                            [**2128-1-20**]  03:35 PM
                            [**2128-1-20**]  06:15 PM
                            [**2128-1-20**]  09:27 PM
                            [**2128-1-21**]  03:44 AM
   WBC
   30.6
   26.9
   18.7
   Hct
   27.6
   27.8
   27.5
   Plt
   86
   101
   93
   Cr
   4.8
   5.0
   4.5
   TCO2
   19
   18
   16
   18
   20
   17
   18
   Glucose
   84
   46
   125
   Other labs: PT / PTT / INR:12.0/30.5/1.0, CK / CKMB /
   Troponin-T:1017/10/0.35, ALT / AST:36/58, Alk Phos / T Bili:172/0.4,
   Differential-Neuts:83.0 %, Band:2.0 %, Lymph:5.0 %, Mono:4.0 %, Eos:2.0
   %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:603 IU/L, Ca++:6.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTHERMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPERGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
   1.       Resp Failure: intubated for management of acidosis and
   inability to protect his airway.  Currently back on PSV 15/5. RSBI of
   60. Try SBT
 need to watch how he can handle compensating for his met
   acidosis however.
   2.       Metabolic Acidosis: The etiology of which is ARF and
   hyperchloremic met acidosis. We are repleting free water and repleting
   with 1 amp bicarb per day. Overall trend improving.
   3.       DKA: Appreciate [**Last Name (un) 276**] input, continue IV insulin, and
   evaluation for precipitant ongoing.
   4.       Persistent fevers: clearly has MRSA PNA for which he is on Rx.
   Abd ct shows some bowel wall abnormalities and proctitis but he is
   without need for surgical intervention.  Follow up cultures and
   maintain antibiotics. Other potential source would be occult dental
   abscess
 can
t get panorex, could get a head and neck CT but since he
   is better with addition of Flagyl and we have possible other source
   will hold off on road trip for now. If BP changes will scan. Meanwhile
   pan culture
 remove fem a line.
   5.       Renal function slowly improving, appreciate renal
   consultation. Keep up fluids to maintain not more than 500 cc neg and
   replete free water aggressively.
   6.       Thrombocytopenia: down to 93 but holding.  HIT negative and
   smear without shistocytes.  Med effect with Vanco, also Zosyn, and
   finally TTP
 HUS with his renal failure and anemia.
   7.       Leukocytosis: DDx is line infection, C diff. Started Flagyl
   yesterday and coming down. . Repeat C diff. one more time for 3 neg.
   8.       Sedation: switched to Versed and fentanyl for better pain
   control- will restart home Fentanyl patch.
   9.       Wound care for bilateral decubiti
   Remaining issues as per Housetaff notes.
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2128-1-20**] 05:45 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-1-17**] 02:00 AM
   Arterial Line - [**2128-1-17**] 08:11 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP: HOB chlorhex
   Communication:  father
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2128-01-22 09:56:00 Physician Attending Progress Note
Chief Complaint: resp failure, DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2128-1-22**] 03:51 AM
   Doing well on [**5-25**]
   Only low grade temps
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-21**] 11:32 PM
   Metronidazole - [**2128-1-22**] 03:56 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2128-1-21**] 08:37 PM
   Fentanyl - [**2128-1-22**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-22**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 94 (88 - 107) bpm
   BP: 159/71(91) {139/55(75) - 159/71(91)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   Mixed Venous O2% Sat: 85 - 85
   Total In:
                                                                  4,900 mL
                                                                  1,212 mL
   PO:
   TF:
                                                                    920 mL
                                                                    239 mL
   IVF:
                                                                  2,380 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                  1,410 mL
   Urine:
                                                                  3,205 mL
                                                                  1,360 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                  1,695 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 580 (508 - 635) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.36/34/146/18/-5
   Ve: 11.2 L/min
   PaO2 / FiO2: 365
   Physical Examination
   Labs / Radiology
   9.0 g/dL
   92 K/uL
   116 mg/dL
   5.1 mg/dL
   18 mEq/L
   3.5 mEq/L
   73 mg/dL
   117 mEq/L
   147 mEq/L
   26.5 %
   10.9 K/uL
        [image002.jpg]
                            [**2128-1-20**]  03:35 PM
                            [**2128-1-20**]  06:15 PM
                            [**2128-1-20**]  09:27 PM
                            [**2128-1-21**]  03:44 AM
                            [**2128-1-21**]  10:52 AM
                            [**2128-1-21**]  05:37 PM
                            [**2128-1-21**]  06:02 PM
                            [**2128-1-21**]  09:55 PM
                             [**2128-1-22**]  01:45 AM
                             [**2128-1-22**]  02:54 AM
   WBC
   18.7
   10.9
   Hct
   27.5
   26.5
   Plt
   93
   92
   Cr
   4.5
   5.2
   5.1
   TCO2
   20
   17
   18
   18
   18
   21
   20
   Glucose
   125
   187
   116
   Other labs: PT / PTT / INR:12.3/29.4/1.0, CK / CKMB /
   Troponin-T:1017/10/0.35, ALT / AST:36/58, Alk Phos / T Bili:172/0.2,
   Differential-Neuts:83.0 %, Band:2.0 %, Lymph:5.0 %, Mono:4.0 %, Eos:2.0
   %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:418 IU/L, Ca++:7.9
   mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPERGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
   1.       Resp Failure: intubated for management of acidosis and
   inability to protect his airway.  Currently back on PSV 15/5. RSBI of
   60. Try SBT
 need to watch how he can handle compensating for his met
   acidosis however.
   2.       Metabolic Acidosis: The etiology of which is ARF and
   hyperchloremic met acidosis. We are repleting free water and repleting
   with 1 amp bicarb per day. Overall trend improving.
   3.       DKA: Appreciate [**Last Name (un) 276**] input, continue IV insulin, and
   evaluation for precipitant ongoing.
   4.       Persistent fevers: clearly has MRSA PNA for which he is on Rx.
   Abd ct shows some bowel wall abnormalities and proctitis but he is
   without need for surgical intervention.  Follow up cultures and
   maintain antibiotics. Other potential source would be occult dental
   abscess
 can
t get panorex, could get a head and neck CT but since he
   is better with addition of Flagyl and we have possible other source
   will hold off on road trip for now. If BP changes will scan. Meanwhile
   pan culture
 remove fem a line.
   5.       Renal function slowly improving, appreciate renal
   consultation. Keep up fluids to maintain not more than 500 cc neg and
   replete free water aggressively.
   6.       Thrombocytopenia: down to 93 but holding.  HIT negative and
   smear without shistocytes.  Med effect with Vanco, also Zosyn, and
   finally TTP
 HUS with his renal failure and anemia.
   7.       Leukocytosis: DDx is line infection, C diff. Started Flagyl
   yesterday and coming down. . Repeat C diff. one more time for 3 neg.
   8.       Sedation: switched to Versed and fentanyl for better pain
   control- will restart home Fentanyl patch.
   9.       Wound care for bilateral decubiti
   Remaining issues as per Housetaff notes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-1-17**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2128-01-23 11:51:00 Physician Attending Progress Note
Chief Complaint: resp failure, DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated successfully
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2128-1-23**] 03:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-23**] 08:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2128-1-22**] 09:12 PM
   Morphine Sulfate - [**2128-1-23**] 10:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-23**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 98 (88 - 112) bpm
   BP: 171/67(91) {151/59(80) - 174/90(106)} mmHg
   RR: 19 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,109 mL
                                                                  1,279 mL
   PO:
             340 mL
   TF:
                                                                    599 mL
                                                                    471 mL
   IVF:
                                                                  1,311 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  3,019 mL
                                                                  1,260 mL
   Urine:
                                                                  2,869 mL
                                                                  1,160 mL
   NG:
   Stool:
                                                                    150 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                     90 mL
                                                                     19 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   Gen sitting up in chair, comversant
   HEENT NGT
   CV RR
   Chest: good air movement with bibasilar rales
   ABd soft NT
   Ext: ecchymoses 3+ edema,
   Neuro:conversant, complains of back pain
   Labs / Radiology
   8.9 g/dL
   91 K/uL
   244 mg/dL
   4.8 mg/dL
   18 mEq/L
   3.5 mEq/L
   69 mg/dL
   111 mEq/L
   142 mEq/L
   25.2 %
   10.1 K/uL
        [image002.jpg]
                            [**2128-1-20**]  09:27 PM
                            [**2128-1-21**]  03:44 AM
                            [**2128-1-21**]  10:52 AM
                            [**2128-1-21**]  05:37 PM
                            [**2128-1-21**]  06:02 PM
                            [**2128-1-21**]  09:55 PM
                             [**2128-1-22**]  01:45 AM
                             [**2128-1-22**]  02:54 AM
                             [**2128-1-22**]  08:57 PM
                             [**2128-1-23**]  02:28 AM
   WBC
   18.7
   10.9
   10.1
   Hct
   27.5
   26.5
   25.2
   Plt
   93
   92
   91
   Cr
   4.5
   5.2
   5.1
   4.9
   4.8
   TCO2
   18
   18
   18
   21
   20
   Glucose
   125
   187
   116
   219
   244
   Other labs: PT / PTT / INR:13.6/32.4/1.2, CK / CKMB /
   Troponin-T:1017/10/0.35, ALT / AST:36/58, Alk Phos / T Bili:172/0.2,
   Differential-Neuts:83.0 %, Band:2.0 %, Lymph:5.0 %, Mono:4.0 %, Eos:2.0
   %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:418 IU/L, Ca++:7.8
   mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DIARRHEA
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPERGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
   1.       ARF/Metabolic Acidosis: The etiology of which is ARF and
   hyperchloremic met acidosis. We are repleting free water and keeping
   goal 500 negative  in post ATN diuresis. Keeping up with free water
   deficit. Start po Bicitra to avoid volume.
   2.       DKA: Appreciate [**Last Name (un) 276**] input, switching off IV insulin and
   working with lantus and humalog sliding scale but careful as we switch
   off tibe feeds and back to pos
   3.       Persistent fevers: overall trend is down since we started
   Flagyl - ? treating proctitis or oral abscess
will get Panorex.
   Clearly has MRSA PNA for which he is on Rx. Hold Vanco for level less
   than 15
   4.       Thrombocytopenia: down to 93 but holding.  HIT negative and
   smear without shistocytes. Appreciate Heme consult.    Med effect with
   Vanco, also Zosyn.
   5.           Pain: fentanyl patch, add 2^nd patch to get to home
   regimen.  Prn bolus to manage through.
   6. Nutrition: Passed swallow eval. D/C NGT
   Remaining issues as per Housetaff notes.
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2128-1-23**] 03:49 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2128-1-17**] 02:00 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:PPI
   Code status: Full code
   Disposition : call out
   Total time spent: